US08022223B2
Step E: 7-chloro-3-methylthieno[3,2-b]pyridine:
Phosphorous oxychloride (2.2 mL, 24 mmol) in 1,2-dichloroethane (12 mL) was charged with 3-methylthieno[3,2-b]pyridin-7-ol (2.0 g, 12 mmol). The reaction stirred overnight at reflux under nitrogen. The mixture was the cooled and concentrated. Saturated NaHCO3 solution was carefully added to neutralize the residue. The biphasic mixture was extracted with dichloromethane, dried, and concentrated. Flash chromatography (15% EtOAc/hexanes) gave the title compound (1.23 g, 55%).

reactant | Phosphorous oxychloride | 24 mmol, 2.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-methylthieno[3,2-b]pyridin-7-ol | 12 mmol, 2.0 g | CC1=CSC=2C1=NC=CC2O | C8H7NOS
solvent | 1,2-dichloroethane | 12 mL | ClCCCl | C2H4Cl2
product | 7-chloro-3-methylthieno[3,2-b]pyridine | 1.23 g, 55% | ClC1=C2C(=NC=C1)C(=CS2)C | C8H6ClNS
